US06211378B1
1-Benzyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine
A mixture of 2.58 g (0.015 mol) of 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine and 27.64 g (0.30 mol) of toluene under a nitrogen atmosphere is heated in a pressure vessel for 53 hours. The reaction mixture is diluted with diethyl ether and the resultant mixture is washed with 10 w/v % ascorbic acid (1×50 mL) and distilled water (2×50 mL). The organic phase is dried over anhydrous sodium sulfate and the volatiles are removed in vacuo. The residue is recrystallized from heptane to give 0.59 g (30% yield) of a white solid melting at 86-87° C.

reactant | 1-oxyl-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.015 mol, 2.58 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
reactant | toluene | 0.30 mol, 27.64 g | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-Benzyloxy-4-hydroxy-2,2,6,6-tetramethylpiperidine | 0.59 g, 30% yield | C(C1=CC=CC=C1)ON1C(CC(CC1(C)C)O)(C)C | C16H25NO2
